* Z:\home\seijirom\work\2021_9\OR1_simple_BGR\bgr_simple_tb.asc
V1 N001 0 10
R1 N002 0 1Meg
XX1 N001 N002 bgr_simple

* block symbol definitions
.subckt bgr_simple vin vout
M1 N003 N002 vin vin pch l=1u w=20u m=2
M2 N002 N001 vin vin pch l=1u w=20u
M3 N001 N001 vin vin pch l=1u w=20u
M4 N003 N003 R2 0 nch l=1u w=20u m=2
M5 N002 N003 N005 0 nch l=1u w=20u
M6 N001 N003 N004 0 nch l=1u w=20u
R1 vin N003 1.005Meg
R2 N007 N011 4k
R5 vout R2 1k
M7 N004 N004 N004 N011 pch l=1u w=20u ad=20e-12 as=20e-12
M8 N005 N005 N005 N007 pch l=1u w=20u ad=20e-12 as=20e-12 m=8
M9 D D D 0 pch l=1u w=20u ad=20e-12 as=20e-12 m=2
D1 0 N001 D
D2 0 N002 D
D4 0 N003 D
R3 N006 N009 4k
R4 N009 N012 4k
R6 N012 N011 1.6k
R7 N006 N010 4k
R8 N010 N013 4k
R9 N013 N015 4k
R10 N015 0 4k
R11 N017 N016 4k
R12 N016 N014 4k
R13 N014 N008 4k
R14 N017 R3 4k
R15 R3 R2 4k
R16 R2 R1 4k
R17 R1 R2 4k
R18 D N008 4k
R20 R1 R2 4k
R21 R2 R1 4k
.ends bgr_simple

.model D D
.lib C:\users\seijirom\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\seijirom\My Documents\LTspiceXVII\lib\cmp\standard.mos
* .step param R list   29.6k 29.7k 29.8k 29.9k 30k 30.1k
.dc temp -40 120 1
.param r=29.8k
.include "./models/OR1_mos"
* .ac dec 1 1 10
.backanno
.end
